US04829081
α-(4-fluorophenyl-β-mercapto-benzene ethanol
To a solution of 12.4 g (0.1 mole) of benzyl mercaptan (ie, benzenemethanethiol) in 150 ml of THF at 0° C. under moisture-free conditions, was added, dropwise, 14 g (0.22 mole) of n-butyllithium (1.6 m in hexane). After stirring at 0° C. for 4 hours (orange precipitate forms), the mixture was cooled to -25°. To this mixture was added a solution of 12.4 g (0.1 mole) of p-fluorobenzaldehyde in 100 ml of THF, dropwise. After stirring at -25° C. for 1 hour, a yellow solution occurs. The reaction was quenched with saturated aqueous ammonium chloride and the organic material was extracted once with MTBE and then once with methylene chloride. The organic solutions were combined and dried, and the solvent was removed under reduced pressure to give 25 g of the title product of this step as an oil (80:20 mixture of isomers), which was used in the next step without any further purification.

reactant | benzyl mercaptan | 0.1 mole, 12.4 g | C(C1=CC=CC=C1)S | C7H8S
reactant | n-butyllithium | 0.22 mole, 14 g | C(CCC)[Li]
reactant | p-fluorobenzaldehyde | 0.1 mole, 12.4 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | THF | 150 ml | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-fluorophenyl-β-mercapto-benzene ethanol | 25 g | FC1=CC=C(C=C1)C1=C(C=CC=C1)C(CO)S | C14H13FOS
